US09303035B2
Step 2: 5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Tetra-n-butylammonium fluoride solution (1.0M, 24.8 mL, 24.8 mmol) was added to a suspension of 5-(3-fluorophenyl)-1,3-dimethyl-6-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (1.00 g, 2.48 mmol) in THF (7 mL), and the mixture was stirred at 60° C. for 2 hours, then cooled to room temperature and stirred for 4 hours. The mixture was concentrated under vacuum and the residue was dissolved in ethyl acetate (50 mL). The mixture was washed with water (3×25 mL) and brine (1×25 mL). The organic phase was dried over magnesium sulfate and the solvent was evaporated under vacuum to afford the title compound.

reactant | Tetra-n-butylammonium fluoride | 24.8 mmol, 1.0M, 24.8 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(3-fluorophenyl)-1,3-dimethyl-6-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 2.48 mmol, 1.00 g | FC=1C=C(C=CC1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)COCC[Si](C)(C)C | C20H26FN3O3Si
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | FC=1C=C(C=CC1)C=1NC=C2N(C(N(C(C21)=O)C)=O)C | C14H12FN3O2
